US06921763B2
cis-N2-(4-{4-Amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4,5,6,7-tetrahydro-1,3-benzothiazol-2-amine
The procedure described for cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,6-dihydro-4H-cyclopenta[d][1,3]thiazol-2-amine was used to convert cyclohexanone (310 μL, 3.00 mmol) to the title compound. Purification of the product by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 6.8-8.6 min) afforded cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4,5,6,7-tetrahydro-1,3-benzothiazol-2-amine as an orange powder (0.022 g, 0.040 mmol); RP-HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a 5μ Hypersil HS C18, 250×4.6 mm column) Rt 7.62 min; MS (MH)+ 544.

reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5,6-dihydro-4H-cyclopenta[d][1,3]thiazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2SC1=C(N2)CCC1)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C28H35N9S
reactant | cyclohexanone | 3.00 mmol, 310 μL | C1(CCCCC1)=O | C6H10O
product | cis-N2-(4-{4-Amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-4,5,6,7-tetrahydro-1,3-benzothiazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2SC1=C(N2)CCCC1)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H37N9S
